US05792788
2-[2-(5-Chloro-2-methoxybenzoylamino)ethyl]-4-(aminocarbonylaminosulfonyl)-5-methylthiophene
Analogously to Example 2 from 2-[2-(5-chloro-2-methoxybenzoylamino)ethyl]-4-sulfamoyl-5-methylthiophene and KOCN.

reactant | 2-[2-(5-chloro-2-methoxybenzoylamino)ethyl]-4-sulfamoyl-5-methylthiophene | ClC=1C=CC(=C(C(=O)NCCC=2SC(=C(C2)S(N)(=O)=O)C)C1)OC | C15H17ClN2O4S2
reactant | KOCN | O([K])C#N
product | 2-[2-(5-Chloro-2-methoxybenzoylamino)ethyl]-4-(aminocarbonylaminosulfonyl)-5-methylthiophene | ClC=1C=CC(=C(C(=O)NCCC=2SC(=C(C2)S(=O)(=O)NC(=O)N)C)C1)OC | C16H18ClN3O5S2
